US09034899B2
A procedure similar to the one in Step A of Example 29 was used to couple (+)-4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline with 3-chloro-6-(difluoromethoxy)pyridazine. (+)-4-(3,4-Dichlorophenyl)-7-(6-(difluoromethoxy)pyridazin-3-yl)-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinoline was obtained in 66% yield as a brown oil: ESI MS m/z 454 [M+H]+.

reactant | (+)-4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)F)B1OC(C(O1)(C)C)(C)C)C | C22H25BCl2FNO2
reactant | 3-chloro-6-(difluoromethoxy)pyridazine | ClC=1N=NC(=CC1)OC(F)F | C5H3ClF2N2O
product | (+)-4-(3,4-Dichlorophenyl)-7-(6-(difluoromethoxy)pyridazin-3-yl)-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinoline | 66% yield | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)F)C=1N=NC(=CC1)OC(F)F)C | C21H16Cl2F3N3O
